US04281000
3-(Ethoxymethyl)-7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine
A mixture of 0.01 mole of ethyl 7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine-3-carboxylate and lithium aluminum hydride in ether is heated at reflux temperature for 8 hours. To the mixture is added (dropwise) ethanol and water. The ethereal layer is separated, then ethanol and anhydrous hydrochloric acid is added to it. The resulting mixture is refluxed for 8 hours and the solvent is removed. The residue is extracted with dichloromethane. The dichloromethane extract is passed through a column of hydrous magnesium silicate. The eluent is concentrated and diluted with hexane to give the product of the example.

reactant | ethyl 7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine-3-carboxylate | 0.01 mole | N1=CC(=CC=C1)C1=CC=NC=2N1N=CC2C(=O)OCC | C14H12N4O2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethanol | C(C)O | C2H6O
reactant | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | 3-(Ethoxymethyl)-7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine | C(C)OCC=1C=NN2C1N=CC=C2C=2C=NC=CC2 | C14H14N4O
